US03969518
3-Chloromethyl-5-bromo-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide
A mixture of 2,4-disulfamoyl-6-bromoaniline (0.015 mole) and chloroacetyl chloride (0.016 mole) in 50 ml. of dioxane or other inert organic solvent is heated under reflux conditions for about 24 hours and then concentrated to dryness. The residue is dissolved in concentrated sulfuric acid (5 ml. acid/gram), heated in a steam bath at 60°-70° C. for three hours then poured onto ice. The product, 3-chloromethyl-5-bromo-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide, is purified by recrystallization from a mixture of acetone-alcohol-water.

reactant | 2,4-disulfamoyl-6-bromoaniline | 0.015 mole | S(N)(=O)(=O)C1=C(N)C(=CC(=C1)S(N)(=O)=O)Br | C6H8BrN3O4S2
reactant | chloroacetyl chloride | 0.016 mole | ClCC(=O)Cl | C2H2Cl2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Chloromethyl-5-bromo-7-sulfamoyl-1,2,4-benzothiadiazine-1,1-dioxide | ClCC=1NS(C2=C(N1)C(=CC(=C2)S(N)(=O)=O)Br)(=O)=O | C8H7BrClN3O4S2
